US06231655B1
Preparation of 2-methyl-2-trifluoromethyl-4-hydroxymethyl-1,3-dioxolane
A 2 L stirrer-equipped autoclave was charged with 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane (96.1 g; 0.4 moles), propylene oxide (23.3 g; 0.4 moles), and potassium hydroxide (0.6 g). The autoclave was purged of oxygen using argon gas and then sealed. While stirring the mixture, the temperature of the autoclave was raised to 125° C. and then kept at that temperature for 3 hours. After cooling the mixture to room temperature, the autoclave was vented. Next, ethylene oxide (52.9 g; 1.2 moles) was condensed at 0° C. into the mixture with stirring. While continuing to cool the combined mixture, the autoclave was again purged of oxygen using argon gas and then sealed. While stirring the mixture, the temperature of the autoclave was raised to 130° C. and then kept at that temperature for 3 hours. After cooling the mixture to room temperature, the autoclave was vented and the crude product was transferred to a 300 mL round bottom flask. Pure product was isolated by vacuum distillation at 186° C. and 0.3 mm of Hg. The yield of product was 143 g which is 83% of the theoretical value. In the examples and test evaluations described below, this compound is abbreviated (F3)(F3)-ipg-(PO)(EO)3.

reactant | 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane | 0.4 moles, 96.1 g | FC(C1(OCC(O1)CO)C(F)(F)F)(F)F | C6H6F6O3
reactant | propylene oxide | 0.4 moles, 23.3 g | C1C(C)O1 | C3H6O
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
reactant | ethylene oxide | 1.2 moles, 52.9 g | C1CO1 | C2H4O
product | 2-methyl-2-trifluoromethyl-4-hydroxymethyl-1,3-dioxolane | CC1(OCC(O1)CO)C(F)(F)F | C6H9F3O3
